US08455665B2
(R)-3-[(S)-(2,3-Dichlorophenoxy)(tetrahydropyran-4-yl)-methyl]pyrrolidine
(R)-3-[(S)-Hydroxy(tetrahydropyran-4-yl)methyl]pyrrolidine-1-carboxylic acid t-butyl ester (30 mg, 0.1 mmol) was dissolved in DMF (380 μL). NaH (3.0 mg, 126 μmol) was added and the mixture was stirred at room temperature for 15 minutes. 1,2-Dichloro-3-fluorobenzene (34.7 mg, 210 μmol) was added and the mixture was stirred at 100° C. overnight. The mixture was concentrated then dissolved in 1.2M HCl in EtOH (510 μL, 610 μmol) and stirred overnight. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (10.8 mg, purity 100%). MS m/z: [M+H]+ calcd for C16H21Cl2NO2, 330.10. found 330.0.

reactant | (R)-3-[(S)-Hydroxy(tetrahydropyran-4-yl)methyl]pyrrolidine-1-carboxylic acid t-butyl ester | 0.1 mmol, 30 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@H](C1CCOCC1)O | C15H27NO4
reactant | NaH | 126 μmol, 3.0 mg | [H-].[Na+]
reactant | 1,2-Dichloro-3-fluorobenzene | 210 μmol, 34.7 mg | ClC1=C(C(=CC=C1)F)Cl | C6H3Cl2F
reactant | EtOH | 610 μmol, 510 μL | CCO | C2H6O
solvent | DMF | 380 μL | CN(C)C=O | C3H7NO
solvent | HCl | 1.2M | Cl | ClH
product | (R)-3-[(S)-(2,3-Dichlorophenoxy)(tetrahydropyran-4-yl)-methyl]pyrrolidine | ClC1=C(O[C@H]([C@H]2CNCC2)C2CCOCC2)C=CC=C1Cl | C16H21Cl2NO2
